US06117901
Synthesis of N-[(2-phenyl)-2-fluoroacetyl]alanine ethyl ester
Following General Procedure F above, and using α-fluorophenyl acetic acid (Aldrich) and alanine ethyl ester (Aldrich), the title compound was prepared. The reaction was monitored by tlc on silica gel (Rf=0.75 in 1:1 EtOAc:hexane) and purification was by chromatography on silica gel using 1:2 ethyl acetate/hexanes as the eluent.

reactant | α-fluorophenyl acetic acid | FC(C(=O)O)C1=CC=CC=C1 | C8H7FO2
reactant | alanine ethyl ester | C(C)OC([C@@H](N)C)=O | C5H11NO2
product | N-[(2-phenyl)-2-fluoroacetyl]alanine ethyl ester | C(C)OC([C@@H](NC(C(F)C1=CC=CC=C1)=O)C)=O | C13H16FNO3
